* Spice netlister for gnetlist
.lib '/home/daniel/Research/Tools/skywater/skywater-pdk/libraries/sky130_fd_pr/latest/models/sky130.lib.spice' tt
.include '/home/daniel/Research/Projects/Navy_2019/skywater_pdk/sky130A/libs.ref/sky130_fd_sc_hd/spice/sky130_fd_sc_hd.spice'
*
.param vd=1.8V
*
* Full adder subcircuit 
* https://en.wikipedia.org/wiki/Adder_(electronics)#/media/File:Full-adder_logic_diagram.svg
.subckt fa A B Cin S Cout VGND VPWR
Xxor1 A B VGND VGND VPWR VPWR out_xor1 sky130_fd_sc_hd__xor2_1
Xxor2 out_xor1 Cin VGND VGND VPWR VPWR S sky130_fd_sc_hd__xor2_1
Xand1 out_xor1 Cin VGND VGND VPWR VPWR out_and1 sky130_fd_sc_hd__and2_1
Xand2 A B VGND VGND VPWR VPWR out_and2 sky130_fd_sc_hd__and2_1
Xor1 out_and1 out_and2 VGND VGND VPWR VPWR Cout sky130_fd_sc_hd__or2_1
.ends
*
* Full adder instance
Xadder A B Cin S Cout VGND VPWR fa
*
VVDD VDD 0 vd
Vgnd VGND 0 0
Vdd VPWR VGND vd
* A = 1 
* B = 0
VA A 0 vd
VB B 0 0
VCin Cin 0 0
*
.tran 1ps 10ns
*
.control 
run
plot v(A) v(B) v(Cin) ylimit -1 3
plot v(S) v(Cout) ylimit -1 3
.endc
*
.END
